Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Fall, Difficulty with Balance/Coordination
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
___ man with metastatic renal cell carcinoma, previously 
progressed on IL-2, pazopanib, axitinib, started on nivolumab 
(C1D1 = ___ but found to have brain mets in ___ 
now s/p WBRT and on steroids, presenting with ataxia and fall 
today.

Patient reports that about 2 weeks ago stopped steroids, but 
then his ___ automatically renewed them, and a few days ago he 
took one dose, but was confused about why his PPI wasn't 
renewed, so called oncology office who told him this was an 
error and to stop steroids. REeports that he has had worsening 
ataxia over last several weeks but particularly worse in the 
past week or so. He
has h/o right knee arthritis s/p knee replacement, and 
occasionally knee buckles under him. Today he bent over and the 
knee buckled and felt a bit painful. He usually takes 
glucosamine which helps with this but has been holding it 
because he wasn't sure if it would interact with his nivolumab. 
Otherwise no fevers, dizziness, palpitations, chest pain, cough, 
dysuria, leg
weakness. Notes that coordination and balance off; at night when 
ambulating especially holds onto the walls. No limb shaking or 
obvious confusion at home or evidence of seizures or 
incontinence. Lives with his fiancé. He was supposed to come in 
for MRI today but went to the ED. Per notes confirms that most 
recently appears he is supposed to be off dexamethasone (called 
in ___, accidentally had decadrone renewed and took one dose). 
He hit his head in the back and had significant swelling today 
when he fell, but this has gone down, though still feels a bit 
tender. NO headaches, diplopia, visual changes, nausea or 
vomiting however. All other 10 point ROS neg.

ED COURSE:
T 98.0  HR 73  BP 159/94  RR 20  99% RA. CHem unremarkable (mg 
1.7) and Hct 33.8, wbc 4.8 with 74% pmns). CT head: CT head: 
Multiple brain lesions consistent with metastatic disease better 
assessed on recent prior MRI exam. No significant mass effect or 
midline shift. Hyperdense appearance of lesion in the right 
cerebral peduncle raises potential concern for intralesional 
hemorrhage. Case was discussed w/ Dr. ___ neurology consult 
team; neuro team felt that it was possible hemorrhage only can 
be worked up tomorrow with MRI as pt stable.
 
Past Medical History:
PAST ONC HISTORY:
His neurologic problem began in ___ when he experienced
hematuria one day while arrangements were made to treat his
___ 7 prostate cancer with external beam radiation therapy.
He then went to his local emergency department at ___. A CT renal protocol without contrast that revealed a
hyperdense mass in the right medial lower pole of the kidney.  
He then underwent Laparoscopic right radical nephrectomy by Dr.
___ on ___. A staging chest CT on ___ showed 
lung nodules, the largest one. He then had external beam 
radiation to his prostate by ___ at ___ by ___. The repeat CT torso on ___ showed 
enlargement of his multiple pulmonary nodules and on ___ CT 
showed progression of mediastinal and hilar lymphadenopathy. He 
then underwent a bronchoscopy with endoscopic ultrasound guided 
biopsy on ___ that showed metastatic renal cell carcinoma. 
He received IL-2 therapy from ___ to ___ followed by  
He had CyberKnife to progressive mediastinal lymph nodes from 
___ to ___ to 3000 cGy (600 cGy x 5 fractions). He 
started Pazopanib on ___ until ___ due to side effects 
including fatigue, anorexia, dysgeusia, weight loss, cytopenias, 
elevated creatinine, and transaminitis.  He was switched to 
axitinib on ___ and took that until ___. He was 
switched to nivolumab on ___ and had 2 cycles so far.

His neurological problem began on ___ when he experienced
spasms and jerking movements in his left hand. Afterwards, he
experienced weakness and decreased dexterity. He went to see his 
primary care physician ___ ___ and a head MRI showed 
multiple enhancing lesions in the brain, with the largest one, 
measuring about 1 cm in diameter, in the right motor gyrus with 
surrounding cerebral edema. He was sent to our emergency 
department at ___ and was admitted to the ___ 
initially and now has been transferred to ___ today. He 
is now on levetiracetam and dexamethasone.  He has full strength 
in his left hand. He does not have headache, nausea, vomiting, 
additional jerks, double vision, blurry vision, imbalance or 
fall. 

-___ - ___: WBRT to brain

PAST MEDICAL HISTORY:  
- Renal cell carcinoma as above.  
- Prostate cancer - ___ 7, PSA 4.06 pre-treatment, s/p XRT, 
followed by Dr. ___.  
- Hypertension.  
- Osteoarthritis.  
- Diverticulosis.  
- Small bowel obstruction ___.
 
PAST SURGICAL HISTORY:  
- Right radical nephrectomy, pT3aN0 tumor - ___  
- Right knee torn ligament, status post surgery in the ___  
- Ruptured appendix status post appendectomy  
- L5 discectomy  
 
Social History:
___
Family History:
-Mother with breast cancer and a mastectomy at the age of ___.  
-Father with CHF.  
-Brother with leukemia at the age of ___.  
-Another brother with kidney and prostate problems, unclear 
etiology.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VITAL SIGNS: Temp 97.8  111/57  84  16  100% RA
General: Resting in bed comfortably, in no acute distress.
HEENT: MMM, no OP lesions.
CV: RRR, normal s1/s2, no m/r/g.
PULM: CTAB.
GI: Soft, NTND, no masses or hepatosplenomegaly.
LIMBS: Mild right knee edema without erythema.
SKIN: No rashes or skin breakdown.
NEURO: Alert and oriented, unable to move lower extremities on
intent at all, has spasms/twitches of bilateral lower
extremities, upper
extremity strength ___ bilateral. Decreased sensation to touch 
on
bilateral lower extremities to T8. but sensation intact over 
feet
and lower extremities to light touch

========================
Discharge Physical Exam:
========================
GEN: NAD.
VS: Temp 97.8, BP 114/66, HR 76, RR 18, O2 sat 99% RA.
HEENT: MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD.
CV: Regular, normal S1 and S2 no S3, S4, or murmurs.
PULM: Clear to auscultation bilaterally.
ABD: BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly.
LIMBS: No edema.
SKIN: No rashes or skin breakdown.
NEURO: 0+ strength of the legs, spontaneous spasms noted.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 07:00PM BLOOD WBC-4.8 RBC-3.42* Hgb-11.2* Hct-33.8* 
MCV-99* MCH-32.7* MCHC-33.1 RDW-14.6 RDWSD-53.3* Plt ___
___ 07:00PM BLOOD Neuts-74.4* Lymphs-13.2* Monos-10.1 
Eos-1.5 Baso-0.6 Im ___ AbsNeut-3.55 AbsLymp-0.63* 
AbsMono-0.48 AbsEos-0.07 AbsBaso-0.03
___ 07:00PM BLOOD Glucose-86 UreaN-14 Creat-0.8 Na-134 
K-4.2 Cl-95* HCO3-26 AnGap-17
___ 03:15PM BLOOD LD(LDH)-221 CK(CPK)-17*
___ 07:00PM BLOOD Calcium-9.3 Phos-3.2 Mg-1.7

==============
Interval Labs:
==============
___ 09:20PM URINE Hours-RANDOM Creat-43 Na-72 K-49 Cl-61 
Uric Ac-28.2
___ 09:20PM URINE Osmolal-522
___ 07:35AM BLOOD Osmolal-281

===============
Discharge Labs:
===============
___ 06:28AM BLOOD WBC-7.0 RBC-3.06* Hgb-10.0* Hct-30.6* 
MCV-100* MCH-32.7* MCHC-32.7 RDW-16.2* RDWSD-59.5* Plt ___
___ 06:28AM BLOOD Glucose-78 UreaN-30* Creat-0.6 Na-130* 
K-4.8 Cl-93* HCO3-26 AnGap-16
___ 06:28AM BLOOD Calcium-8.7 Phos-4.0 Mg-1.9

=============
Microbiology:
=============
None.

========
Imaging:
========
CT Head w/o Contrast ___
Impression: Multiple brain lesions consistent with metastatic 
disease better assessed on recent prior MRI exam. No significant 
mass effect or midline shift. Hyperdense appearance of lesion in 
the right cerebral peduncle raises potential concern for 
intralesional hemorrhage. 

MRI Head w/ Contrast ___
1. Hyperintensity of the left parietal scalp on diffusion 
images, which may represent soft tissue edema from impact during 
fall. No evidence of traumatic hemorrhage. 
2. Interval improvement of at least 20 supra and infratentorial 
enhancing metastases, many of which have decreased in size, with 
some smaller punctate lesions no longer well visualized. No 
definite new lesion. Extensive involvement of the posterior 
fossa could be responsible for ataxia. 
3. Largest lesion in the right parietal lobe demonstrates 
improved surrounding vasogenic edema. 
4. Another prominent lesion in the right posterior frontal lobe 
has decreased in size, though with mildly increased surrounding 
vasogenic edema. 
5. No other focus of hemorrhage, or infarct. 

Right Knee X-Ray ___
1. Apparently vertically oriented lucency in the posterior 
tibial plateau, 
possibly artifactual nature. However in the setting of trauma, 
this can represent a nondisplaced fracture. If there is history 
of trauma, CT is recommended for further evaluation. 
2. Severe medial compartment osteoarthritis. Small to moderate 
lateral and patellofemoral compartment osteoarthritis. 
3. Moderate joint effusion.

CT Right Lower Extremity ___
Impression: Acute nondisplaced posterior medial tibial plateau 
fracture. Moderate to severe tricompartmental osteoarthritis, 
greatest medially. 

MRI C/T/L-Spine w/ Contrast ___
1. Examination is moderately degraded by motion. 
2. 34 x 9 mm intra medullary enhancing lesion of the thoracic 
cord of the T8 level with extremity in surrounding edema 
spanning the spinal cord from T1 through to the conus 
medullaris, suggesting intra medullary cord metastasis. 
3. 16 x 11 mm enhancing lesion in the right aspect of the T2 
vertebral body concerning for osseous metastasis. 
4. Enlarging 33 x 21 mm soft tissue mass at the level of the 
right L2-L3 facet joint compatible with metastasis. 
5. Diffuse cervical, left supraclavicular, mediastinal, right 
hilar, retroperitoneal and left pelvic sidewall lymphadenopathy, 
with many areas worsened compared to the prior examination. 
6. Small left-sided pleural effusion with subtle ill-defined 
areas of consolidation in the left lower lobe are not fully 
characterize, however may represent new areas of metastasis.  If 
clinically indicated, this can be further investigated with 
dedicated chest CT examination. 
7. 7 mm enhancing hepatic segment VII lesion, concerning for 
additional focus of metastasis. 
8. Cervical, thoracic and lumbar spondylosis, as described. 
9. Postsurgical changes related to prior L4-5 left foraminotomy.
 
Brief Hospital Course:
Mr. ___ is a ___ man with metastatic renal cell 
carcinoma, previously progressed on IL-2, pazopanib, axitinib, 
started on nivolumab (C1D1 = ___ but found to 
have brain mets in ___ now s/p WBRT and on
steroids, presenting with ataxia and fall with worsening lower 
extremity weakness and found to have thoracic spine 
intramedullary metastases.

# Ataxia/Spinal Cord Compression: Patient presented with 
worsening issues of coordination/balanace and falls at home, 
head CT done in ED concern for possible hemorrhagic conversion 
of brain mets however MRI brain overall stable, possibly 
increased edema. He had progressive lower extremity weakness and 
urinary retention requiring catheterization as well as numbness 
which prompted MRI spine showing intramedullary metastasis at T8 
with extensive vasogenic edema. His exam and imaging was 
consistent with acute spinal cord compression secondary to 
intramedullary metastasis. He was placed on high dose steroids. 
Radiation Oncology consulted with plan for emergent radiation 
therapy to T5-T9 which was completed ___. Neuro Oncology was 
consulted who agreed with radiation therapy. Neurosurgery was 
consulted who recommended no surgical intervention. ___ 
recommended rehab. His steroids were decreased with planned 
taper of ___ dexamethasone 1 mg PO daily then ___ 
dexamethasone 0.5 mg PO daily. Omeprazole was continued. Started 
gabapentin 300mg TID for neuropathic ___ numbness, and using 
prn oxycodone and valium for pain and spasms, though he required 
these only very sparingly.

# Hyponatremia: Stable in low 130s range. Initially urine lytes 
with UNa of 72, but ultimately Na remained stable and despite 
fluids for hyperkalemia, so he may have developed a hypovolemic 
component as well. Ultimately remained stable with 2L fluid 
restriction which was continued as urine lytes continued to 
suggest SIADH.

# Hyperkalemia: Unclear etiology, but developed K to 5.___uring the hospitalization. After given gentle IVF this 
improved. CK 17 (checked to eval for muscle breakdown from 
immobility vs steroid myopathy).

# Right Knee Fracture: CT imaging with acute nondisplaced right 
posterior medial tibial plateau fracture. Ortho consulted and 
recommended closed treatment and no surgical intervention. No 
need for arthrocentesis. No pain when not weight bearing. 
Patient remained nonambulatory due to cord compression. If he 
regains function, he can follow up with orthopedics. Continued 
prn oxycodone and Tylenol for pain though had no pain when not 
weight bearing.

# Renal cell carcinoma, metastatic to the brain: He is now s/p 
WBRT and keppra for seizure prophylaxis. Last Nivolumab was 
___. Continued home keppra. Will f/u with his oncologist as 
outpatient.

# Hypothyroidism: Continued home levothyroxine.

# Constipation: Continued senna, colace and miralax.

====================
Transitional Issues:
====================
- Patient on dexamethasone taper for spinal cord compression: 
1mg daily ___, then 0.5mg daily ___. Patient 
started on omeprazole for GI prophylaxis while on steroids and 
can be discontinued after completion.
- Patient started on diazepam, Tylenol, gabapentin, and 
oxycodone for pain control. Please continue to monitor pain and 
adjust medications as needed.
- Patient started on bowel regimen.
- Patient started on trazodone for insomnia.
- Patient placed on 2L fluid restriction due to SIADH.
- Please ensure follow-up with Dr. ___ in ___.
- Patient with right knee fracture to wear unlocked ___ when 
OOB. Can follow-up with Orthopedics if regains function.

# Contact: ___ (fiancé/HCP) ___ (home) 
___ (cell)
# Code status: Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. LevETIRAcetam 1000 mg PO BID
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Dexamethasone 1 mg PO DAILY 
Take 1mg daily ___, then 0.5mg daily ___. 
Tapered dose - DOWN  
3.  Diazepam 2 mg PO Q8H:PRN back pain/spasms  
4.  Docusate Sodium 100 mg PO BID:PRN Constipation  
5.  Gabapentin 300 mg PO TID  
6.  Multivitamins 1 TAB PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg Take ___ tablet by mouth every 4 hours as 
needed Disp #*25 Tablet Refills:*0 
9.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
10.  Senna 8.6 mg PO BID:PRN Constipation  
11.  TraZODone 50 mg PO QHS:PRN insomnia  
12.  LevETIRAcetam 1000 mg PO BID  
13.  Levothyroxine Sodium 100 mcg PO DAILY  
14.  Vitamin D ___ UNIT PO DAILY
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Thoracic Spinal Cord Compression and Paralysis
- Metastatic Renal Cell Cancer
- Hyponatremia
- Right Knee Fracture
- Hypothyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted for weakness and 
cancer involving the spine has prevented you from walking. You 
had an MRI of your back which showed compression of your 
thoracic spinal cord. You were treated with radiation therapy 
for this. You were evaluated by Neurosurgery who did not 
recommend surgery. You are being discharged to rehab to regain 
strength.

All the best,
Your ___ Team
 
Followup Instructions:
___